US08633186B2
2-(9-hydroxynonyloxy)-6-nitrobenzonitrile
Prepared as in Example 274c (except DBU was replaced with 1,1,3,3-tetramethylguanidine) from 1,9-nonanediol and 2,6-dinitrobenzonitrile in 30.7% yield. MS 307 (MH+).

reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 1,1,3,3-tetramethylguanidine | CN(C(=N)N(C)C)C | C5H13N3
reactant | 1,9-nonanediol | C(CCCCCCCCO)O | C9H20O2
reactant | 2,6-dinitrobenzonitrile | [N+](=O)([O-])C1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C7H3N3O4
product | 2-(9-hydroxynonyloxy)-6-nitrobenzonitrile | 30.7% yield | OCCCCCCCCCOC1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C16H22N2O4
